US04885283
0.27 g (0.64 mmol) of benzyl 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvalerate was dissolved in 10 ml of ethanol and the solution was hydrogenated in the presence of 0.2 g of 10% palladium/carbon at room temperature and under atmospheric pressure. After 1 hour, the catalyst was removed by filtration and the solvent was evaporated to give 0.22 g of 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvaleric acid in the form of a foam;

reactant | benzyl 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvalerate | 0.64 mmol, 0.27 g | C(C)OP(=O)(CN1C(NCC1=O)=O)CC(C(=O)OCC1=CC=CC=C1)CC(C)C | C20H29N2O6P
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.2 g | [Pd] | Pd
product | 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvaleric acid | 0.22 g | C(C)OP(=O)(CN1C(NCC1=O)=O)CC(C(=O)O)CC(C)C | C13H23N2O6P
